US07528147B2
A solution of 2-(6-benzyloxy-5-methoxy-1-methyl-1H-indol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine (1.5 g; 2.79 mmol) in acetonitrile (120 ml) is placed in a 250 ml three-necked flask at 20° C., and then trimethylsilyl iodide (0.956 ml; 6.97 mmol) is added dropwise. The reaction mixture is heated at 50° C. for 4 hours and is then evaporated to dryness under reduced pressure. The evaporation residue is taken up in dichloromethane (200 ml) and then washed with distilled water (1×200 ml). The extracts are combined, washed with distilled water, dried over magnesium sulfate and evaporated under reduced pressure, to produce the crude compound which is purified by chromatography on a silica cartridge (AIT FlashSmart Pack, BP-0610300-093, 50 g silica), elution being carried out at 15 ml/min with a dichloromethane/ethyl acetate (95/5 v/v) mixture. The fractions containing the expected product are combined and evaporated to give 5-methoxy-1-methyl-3-[1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-1H-indol-6-ol (0.87 g; 70%) in the form of an ochre foam, which is used as it is for the following step.

reactant | 2-(6-benzyloxy-5-methoxy-1-methyl-1H-indol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 2.79 mmol, 1.5 g | C(C1=CC=CC=C1)OC1=C(C=C2C(=CN(C2=C1)C)C1=CC=2C(=NC=CC2)N1S(=O)(=O)C1=CC=C(C=C1)C)OC | C31H27N3O4S
reactant | trimethylsilyl iodide | 6.97 mmol, 0.956 ml | C[Si](C)(C)I | C3H9ISi
solvent | acetonitrile | 120 ml | C(C)#N | C2H3N
product | 5-methoxy-1-methyl-3-[1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-1H-indol-6-ol | 0.87 g, 70% | COC=1C=C2C(=CN(C2=CC1O)C)C1=CC=2C(=NC=CC2)N1S(=O)(=O)C1=CC=C(C=C1)C | C24H21N3O4S
